US08124610B2
4-Bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide
To a solution of 2-aminothiazole (4.51 g, 0.0450 mol) and pyridine (24.26 mL, 0.3000 mol) in methylene chloride (40 mL, 0.6 mol) at 0° C. was added portionwise 4-bromo-2-fluorobenzenesulfonyl chloride (8.2 g, 0.030 mol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, diluted with EtOAc, washed with 1N HCl solution, H2O and brine. The organic phase was dried with anhydrous sodium sulfate, filtered and concentrated to give the crude product that was purified via automated flash chromatography (silica gel, 25% EtOAc in hexanes to 100% EtOAc) to give the product as a light brown solid (3.6 g, 36%).

reactant | 2-aminothiazole | 0.0450 mol, 4.51 g | NC=1SC=CN1 | C3H4N2S
reactant | pyridine | 0.3000 mol, 24.26 mL | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 0.6 mol, 40 mL | C(Cl)Cl | CH2Cl2
reactant | 4-bromo-2-fluorobenzenesulfonyl chloride | 0.030 mol, 8.2 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
product | 4-Bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 3.6 g, 36% | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H6BrFN2O2S2
